US09416135B2
To a solution of (R)-tert-butyl(1-(benzyl(2-hydroxyethyl)amino)-3-methyl-1-oxobutan-2-yl)carbamate (2.80 g, 8.0 mmol) in CH2Cl2 (20 mL) were added Et3N (1.60 g, 16 mmol) and MsCl (1.40 g, 12.0 mmol) dropwise at −10° C. under N2. The mixture was stirred at rt overnight. The mixture was quenched with water (20 mL) and extracted with CH2Cl2 (3×20 mL). The combined organic layers were washed with brine (20 mL) and dried over anhydrous Na2SO4, filtered, concentrated to afford (R)-tert-butyl(1-(benzyl(2-chloroethyl)amino)-3-methyl-1-oxobutan-2-yl)carbamate (3.0 g, 100% yield) as a yellow solid, which was used for the next step without further purification. LC-MS m/z 369.2 [M+H]+. 1H NMR (CDCl3 400 MHz): δ 7.37-7.28 (m, 3H), 7.22-7.20 (m, 2H), 5.27-5.18 (m, 1H), 4.93-4.86 (m, 1H), 4.64-4.39 (m, 2H), 3.85-3.66 (m, 2H), 3.61-3.39 (m, 2H), 2.03-1.97 (m, 1H), 1.45 (s, 9H), 0.98 (d, J=6.8 Hz, 3H), 0.93 (d, J=6.8 Hz, 3H).

reactant | (R)-tert-butyl(1-(benzyl(2-hydroxyethyl)amino)-3-methyl-1-oxobutan-2-yl)carbamate | 8.0 mmol, 2.80 g | C(C)(C)(C)OC(N[C@@H](C(=O)N(CCO)CC1=CC=CC=C1)C(C)C)=O | C19H30N2O4
reactant | Et3N | 16 mmol, 1.60 g | CCN(CC)CC | C6H15N
reactant | MsCl | 12.0 mmol, 1.40 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl(1-(benzyl(2-chloroethyl)amino)-3-methyl-1-oxobutan-2-yl)carbamate | 3.0 g, 100% yield | C(C)(C)(C)OC(N[C@@H](C(=O)N(CCCl)CC1=CC=CC=C1)C(C)C)=O | C19H29ClN2O3
